US05688808
To a solution of N-tert-butyloxycarbonyl-4-bromomethyl-1,2-dihydro-2,2-dimethyl-6-phenylquinoline (structure 12, where R1 =phenyl) (20 mg, 0.047 mmol) and copper (I) iodide (4 mg, 0.02 mmol) in 1 mL of anhydrous ether at 0° C. was added MeMgBr (0.060 mL, 3M in ether). After 30 min of stirring at 0° C., the reaction mixture was quenched with saturated NH4Cl and extracted with ethyl acetate. The organic layers were combined, dried (Na2SO4) and concentrated in vacuo to provide an oil which was purified by SGC (silica gel, hexane/ethyl acetate, 9:1) giving N-tert-butyloxycarbonyl-4-ethyl-1,2-dihydro-2,2-dimethyl-6-phenylquinoline (16 mg, 91%). 1H NMR (acetone-d6) 7.65 (d, J=8.7, 2H), 7.51 (dd, J=8.0, 1.7, 1H), 7.29 (m, 2H), 7.43 (m, 3H), 5.56 (s, 1H), 2.55 (q, J=8.9, 2H), 1.5 (s, 6H), 1.57 (s, 9H), 1.19 (t, J=8.9, 3H). To a solution of N-tert-butyloxycarbonyl-4-ethyl-1,2-dihydro-2,2-dimethyl-6-phenylquinoline (16 mg, 0.044 mmol) in 1 mL of dichloromethane at 0° C. was added 0.3 mL of trifluoroacetic acid. After 10 min of stirring, the reaction was quenched with saturated NaHCO3, and extracted with dichloromethane. The organic layers were combined, dried (Na2SO4) and concentrated in vacuo to provide an oil that was purified by SGC (silica gel, hexane/ethyl acetate, 7:3) to provide 3 mg (25%) of Compound 112. Data for Compound 112: 1H NMR (acetone-d6) 7.55 (d, J=8.6, 2H), 7.37 (m, 3H), 7.23 (m, 2H), 6.59 (d, J=8.26, 1H), 5.38 (s, 1H), 3.76 (s, 1H), 2.48 (q, J=7.4, 2H), 1.29 (s, 6H), 1.17 (t, J=7.4, 3H).

reactant | N-tert-butyloxycarbonyl-4-bromomethyl-1,2-dihydro-2,2-dimethyl-6-phenylquinoline | 0.047 mmol, 20 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=CC=CC=C1)CBr)(C)C | C23H26BrNO2
reactant | MeMgBr | 3M, 0.060 mL | C[Mg+].[Br-]
solvent | ether | 1 mL | CCOCC | C4H10O
catalyst | copper (I) iodide | 0.02 mmol, 4 mg | [Cu]I
product | N-tert-butyloxycarbonyl-4-ethyl-1,2-dihydro-2,2-dimethyl-6-phenylquinoline | 16 mg, 91% | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=CC=CC=C1)CC)(C)C | C24H29NO2
